Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea, wheezing
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ pMHx COPD, asthma, GERD, and metastatic
carcinoma to the brain of unknown origin s/p resection and WBRT
in ___ who presents with dyspnea/wheezing.   

She states that she has had 2 weeks of progressive SOB which
began with 1 week of URI-type symptoms. She states that she has
had a new productive cough over the past week as well.  She is
normally on 10 mg prednisone daily for her severe COPD, but 
given
her respiratory symptoms, she self-increased her daily 
prednisone
to 20 mg daily last week.  She has not had any fevers.  On day 
of
presentation, she states that she was at a barbeque outdoors 
with
significant pollen exposure (an environmental allergy for her)
after which she became severely dyspneic.  She was brought by
ambulance who noted that the patient was only able to speak 2
word sentences at a timje.  

Upon arrival to the ED, initial VS 99, 100, 160/90, 24, 94% on
RA.  Her O2sats dropped to the upper ___ on RA while in the ED. 
Initial labs showed wnl chemistries, WBC 10.2, Hgb 14.6.  CXR
showed no focal consolidations.  The patient was given IV
methylpred x 1, azithromycin, and duonebs prior to transfer to
the floor.

Upon arrival to the floor, the patient reports ongoing wheezing
and no significant improvement of her respiratory symptoms after
receiving IV methylpred in the ED. She states some abdominal 
pain
associated with cough.  She has no other acute medical
complaints.
 
Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes,
rhinorrhea, congestion, sore throat, chest pain, abdominal pain,
nausea, vomiting, diarrhea, constipation, BRBPR, melena,
hematochezia, dysuria, hematuria.  
 
 
Past Medical History:
(per chart, confirmed with pt):
- Asthma since childhood and COPD (multiple asthma attacks, 
previously seen by Dr. ___ ___ FEV1 71% 
predicted, FEV/FVC 46%, now follows with Dr. ___ 
- Bipolar disorder (history of delusions of parasitosis and 
depression, on SSI, resultant rash from scratching)
- Brain Metastases  (dx in ___ with headaches;, MRI showed 2.4 

x 1.1 cm size mass in the intraaxial location with surrounding 
edema, consistent with metastatic disease; s/p left occipital 
craniotomy and excision of the tumor on ___ Path showed 
metastatic poorly differentiated carcinoma with unclear etiology 

for a primary; ___ whole brain XRT; ___hest 
with new speculated RUL nodule and enlarged lymph node, 
enlarging on PET CT on ___
- knee pain
- recommended many times to have EGD and ___, pt declines 
- GERD 
- Substance abuse (crack cocaine)
 
Social History:
___
Family History:
Aunt with lupus. Mother had lung cancer, sarcoid. Father with
diabetes.  Brother hit by car.
 
Physical Exam:
Vitals- 98.9 PO 131 / 94 R ___
GENERAL: well-appearing , appears comfortable, minimal increased 
WOB with ambulation, able to speak in full sentences
HEENT: MMM, NCAT, EOMI, anicteric sclera
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No JVD.
RESP: decreased air entry bilaterally, scattered wheeze 
bilaterally, no accessory muscle 
ABDOMEN:  soft, NTND, normoactive bowel sounds
EXTREMITIES: wwp, no pitting edema of BLE
SKIN: no rash or lesions
NEUROLOGIC: AOx3, wnl gait, grossly nonfocal.
 
Pertinent Results:
Admission:
___ 10:40PM BLOOD WBC-10.2*# RBC-4.92 Hgb-14.6 Hct-44.7 
MCV-91 MCH-29.7 MCHC-32.7 RDW-14.8 RDWSD-49.6* Plt ___
___ 10:40PM BLOOD Glucose-147* UreaN-14 Creat-0.8 Na-144 
K-3.6 Cl-99 HCO3-31 AnGap-18

Imaging/Studies:  
___ CXR
No acute cardiopulmonary process.

Discharge:
___ 06:35AM BLOOD WBC-11.8* RBC-4.81 Hgb-13.9 Hct-43.4 
MCV-90 MCH-28.9 MCHC-32.0 RDW-14.9 RDWSD-49.5* Plt ___
___ 06:35AM BLOOD Glucose-128* UreaN-18 Creat-0.7 Na-137 
K-4.4 Cl-99 HCO3-26 AnGap-16
 
Brief Hospital Course:
Ms. ___ is a ___ pMHx COPD, asthma, GERD, and metastatic 
carcinoma to the brain of unknown origin s/p resection and WBRT 
in ___ who presented with an acute COPD exacerbation. No 
fevers, but cough, wheeze and dyspnea consistent with COPD 
exacerbation, likely precipitated by pollen exposure. Improved 
slowly. Completed a 5-day course of azithromycin and placed on a 
slow prednisone taper to be continued as an outpatient.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
2. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
3. Montelukast 10 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Aspirin 81 mg PO DAILY 
7. Cetirizine 10 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. PredniSONE 20 mg PO DAILY 

 
Discharge Medications:
1.  Pseudoephedrine 30 mg PO Q6H:PRN nasal congestion 
RX *pseudoephedrine HCl [Nasal Decongestant (pseudoeph)] 30 mg 1 
tablet(s) by mouth every six (6) hours Disp #*10 Tablet 
Refills:*0 
2.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
3.  PredniSONE 50 mg PO DAILY 
50 mg daily x 3 days, then decrease by 10 mg every 3 days until 
taking 10 mg daily  
Tapered dose - DOWN 
RX *prednisone 10 mg 5 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Cetirizine 10 mg PO DAILY  
6.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
7.  Montelukast 10 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
RX *albuterol sulfate [ProAir HFA] 90 mcg 2 puffs INH every four 
(4) hours Disp #*1 Inhaler Refills:*0 
10.  Tiotropium Bromide 1 CAP ___ DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital with an asthma exacerbation. 
You were treated with steroids and breathing treatments and you 
improved.

Please try to avoid cigarettes as they make your breathing 
worse.  

Please continue to take the prednisone (steroids) taper as 
directed. 
 
Followup Instructions:
___